Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting, fever 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ is a ___ with PMH significant for 
anxiety/depression who presented as a transfer from ___ 
___ with 6 days of nausea, vomiting, achiness, and general 
malaise. Her symptoms began with full body skin sensitivity on 
___, but denied rashes, bruising or swelling. She took Motrin 
with no relief. The next morning, she experienced nausea and 
vomiting. She denied blood in her vomit. She stated that she 
took her temperature and it was between 99-101 for many days, 
peaking at 102. She also reported chills. She started taking ___ 
g of acetaminophen daily since ___, which helped reduce her 
fever. She had been staying with her boyfriend in ___ at 
the time of her symptom onset, but felt well enough to fly home 
on that same ___. She denied abdominal pain and diarrhea. Her 
last BM was ___, reportedly no BRBPR or melena. No recent sick 
contacts. She was eating a lot of take out recently, but nothing 
out of the ordinary.  She denies recent travel, tick exposure. 

Labs at ___ from ___ significant for ALT 658, AST 664, 
AP 116. Serum acetaminophen <5.0. She was transferred to ___ 
on ___. In the ED, she was quite nauseated, intermittently 
unable to tolerate PO. She was given fluids, Zofran and then 
Compazine, which helped reduce her nausea. She was also started 
on her home dose of Sertraline. Repeat LFTs were largely 
unchanged from ___ on ___. Vitals in the ED: afebrile 
98.7, BP low of 102/63, HR ___, O2 97, RR ___. Exam was 
notable for: NAD, A&Ox3, benign abdomen. Labs were notable for: 
thrombocytopenia to 89, ALT 664, AST 628, AP 107, normal Tbili.  
Studies were notable for: RUQUS with top-normal spleen size, no 
acute cholecystitis, no liver findings. She was started on 
Ondansetron, Prochlorperazine, given D5LR followed by LR, and 
her  home Sertraline. Hepatology was also consulted.  On arrival 
to the floor, she was stable but endorsed nausea and a headache, 
but attributed this to being dehydrated. She was treated 
symptomatically with antiemetics and was tolerating PO. Upon 
confirmation of initial history, she denied pain, dysuria or 
hematuria. She endorsed taking OCPs, but aside from the 
medications mentioned above, she denied any new medications. 
Denied any history of liver disease, auto-immune illnesses, 
gallstones. 
 
Past Medical History:
- Anxiety/Depression - on Sertraline for at least ___ years 
- Vasovagal syncopal episodes 
- Appendectomy ___
 
Social History:
___
Family History:
Mother w/ elevated ___ of undetermined etiology (currently being
worked up for RA)
No FH of liver disease
Great grandmother - pancreatic cancer 

 
Physical Exam:
Gen: well-appearing, sitting comfortably in bed, no acute
distress 
CV: RR, audible s1/s2, without m/r/g 
Resp: CTAB, normal WOB
Abd: soft, not tender to firm palpation
Skin: no jaundice, completely resolved small flat lesions on 
left
lateral knee
MSK: long thin fingers without joint deformities or joint
swelling but with significant joint laxity, otherwise grossly
normal
Neuro: alert, awake, conversant with clear speech, no asterixis

DISCHARGE PHYSICAL EXAM 

Vitals: ___ 2353 Temp: 97.4 PO BP: 110/77 L Sitting HR: 79
RR: 18 O2 sat: 97% O2 delivery: Ra 
Gen: well-appearing, sitting comfortably in bed, no acute
distress 
CV: RR, audible s1/s2, without m/r/g 
Resp: CTAB, normal WOB
Abd: soft, not tender to firm palpation
Skin: no jaundice, completely resolved small flat lesions on 
left
lateral knee
MSK: long thin fingers without joint deformities or joint
swelling but with significant joint laxity, otherwise grossly
normal
Neuro: alert, awake, conversant with clear speech, no asterixis
 
Pertinent Results:
========================
ADMISSION LABS 
========================

___ 06:19AM BLOOD WBC-5.0 RBC-3.71* Hgb-11.6 Hct-33.5* 
MCV-90 MCH-31.3 MCHC-34.6 RDW-11.6 RDWSD-38.1 Plt Ct-89*
___ 06:19AM BLOOD Neuts-35 Bands-1 ___ Monos-9 Eos-3 
Baso-2* Myelos-1* Promyel-2* AbsNeut-1.80 AbsLymp-2.35 
AbsMono-0.45 AbsEos-0.15 AbsBaso-0.10*
___ 06:19AM BLOOD ___ PTT-24.1* ___
___ 06:19AM BLOOD Glucose-82 UreaN-9 Creat-0.7 Na-139 K-3.6 
Cl-106 HCO3-19* AnGap-14
___ 06:19AM BLOOD ALT-664* AST-628* AlkPhos-107* 
TotBili-0.9
___ 06:19AM BLOOD Albumin-3.7 Calcium-8.4 Phos-2.9 Mg-1.8

========================
INTERVAL LABS 
========================

___ 07:21AM BLOOD Neuts-21* Bands-0 Lymphs-65* Monos-5 
Eos-0* Baso-0 Atyps-9* ___ Myelos-0 AbsNeut-1.28* 
AbsLymp-4.51* AbsMono-0.31 AbsEos-0.00* AbsBaso-0.00*
___ 07:29AM BLOOD Neuts-12* Bands-0 Lymphs-68* Monos-7 
Eos-1 Baso-1 Atyps-11* ___ Myelos-0 AbsNeut-0.89* 
AbsLymp-5.85* AbsMono-0.52 AbsEos-0.07 AbsBaso-0.07

___ 07:21AM BLOOD ALT-818* AST-550* LD(LDH)-522* 
AlkPhos-144* TotBili-1.2
___ 07:29AM BLOOD ALT-1047* AST-676* LD(LDH)-616* 
AlkPhos-165* TotBili-1.3

___ 06:19AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG IgM HAV-NEG
___ 07:50AM BLOOD AMA-NEGATIVE
___ 06:19AM BLOOD Smooth-NEGATIVE
___ 06:19AM BLOOD ___
___ 06:19AM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n 
EBV IgG-POS* EBNA-NEG EBV IgM-POS* EBVI-0.0000 Lyme Ab-NEG
___ 07:29AM BLOOD HIV Ab-NEG
___ 06:19AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 7:21 am SEROLOGY/BLOOD
MONOSPOT (Final ___: POSITIVE by Latex Agglutination. 
         
========================
DISCHARGE LABS 
========================

___ 07:50AM BLOOD WBC-7.7 RBC-4.25 Hgb-13.2 Hct-38.6 MCV-91 
MCH-31.1 MCHC-34.2 RDW-12.0 RDWSD-39.4 Plt ___
___ 07:50AM BLOOD Neuts-21* Lymphs-72* Monos-6 Eos-0* 
Baso-0 Atyps-1* AbsNeut-1.62 AbsLymp-5.62* AbsMono-0.46 
AbsEos-0.00* AbsBaso-0.00*
___ 07:50AM BLOOD ___ PTT-24.8* ___
___ 07:50AM BLOOD Glucose-78 UreaN-7 Creat-0.9 Na-142 
K-3.2* Cl-102 HCO3-27 AnGap-13
___ 07:50AM BLOOD ALT-994* AST-543* LD(___)-521* 
AlkPhos-168* TotBili-1.0

========================
IMAGING 
========================

Abdominal ultrasound 
1.  Top normal spleen size (13.7cm)  
2.  No sonographic evidence of acute cholecystitis. 

 
Brief Hospital Course:
================
BRIEF SUMMARY 
================

___ is a healthy ___ year old women who presented 
with 6 days of nausea,
vomiting and fever who was found to have acute liver injury, 
atypical lymphocytosis, thrombocytopenia, and "top normal" 
spleen by ultrasound, ultimately found to have acute EBV 
infection (positive monospot and EBV IgM). She was monitored for 
several days as her transaminases rose into the 1000s, which we 
suspect was due to a combination of EBV hepatitis and heavy 
Tylenol use prior to presentation. Ultimately she never had any 
evidence of liver failure and her enzymes down trended before 
discharge. Patient was counseled on contact sport limitations 
and the risk of splenic rupture. 

===========================
TRANSITIONAL ISSUES 
===========================
[ ] for nausea, was discharged w PRN Zofran and one week BID 
ranitidine 
[ ] she is not immune to Hep B; we recommend HBV vaccination 
[x] f/u pending Anti-mitochondrial antibody: NEGATIVE
[ ] please repeat CBC w/ platelet count to ensure that 
thrombocytopenia resolves
[x] given risk of traumatic splenic rupture in this context, we 
counseled her to avoid contact sports and to seek medical 
attention if she is in any blunt-force trauma (e.g. MVA) or 
undergoes specific trauma to the abdomen
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. ___ 28 (levonorgestrel-ethinyl estrad) 0.15-0.03 mg oral 
DAILY 

 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H 
RX *ondansetron 4 mg 1 tablet(s) by mouth three times a day Disp 
#*10 Tablet Refills:*0 
2.  Ranitidine 150 mg PO BID nausea  
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  ___ 28 (levonorgestrel-ethinyl estrad) 0.15-0.03 mg oral 
DAILY  
4.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Acute EBV infection
-Acute liver injury from EBV and heavy Tylenol use 

 
Discharge Condition:
Mental status: alert, orientated, no encephalopathy, answers 
questions appropriately 
Medical status: stable, remained afebrile, and nausea 
significantly improved 
Ambulatory status: ambulating independently at baseline 

 
Discharge Instructions:
===================================
WHY DID YOU COME TO THE HOSPITAL?
===================================
Dear ___, 
You were admitted to the hospital because you were having 
nausea, fever and were found to have a viral infection (called 
EBV). 

================================
WHAT HAPPENED AT THE HOSPITAL?
================================
While in the hospital, you received medications to treat your 
nausea. You also underwent imaging and lab tests to determine 
the causes of your symptoms and were found to have viral 
infection. 

====================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=====================================================
[ ] please follow up with your appointment PCP 
[ ] avoid taking any medication that may precipitate liver 
injury including acetaminophen (such as Tylenol) and NSAIDs
[ ] please avoid any participation in any form of contact sports 
for at least 3 to 6 weeks 

It was a pleasure taking care of you during your stay!

Sincerely, 

Your ___ medical team 
 
Followup Instructions:
___